Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abscess and rash

 
Major Surgical or Invasive Procedure:
___: incision and drainage
___: skin biopsy

 
History of Present Illness:
Mr. ___ is a ___ year old presenting with a diffuse rash and 
multiple erythematous, firm skin lesions in his armpits, on his 
left nipple and groin. 3 weeks ago, he noted an itchy, 
erythematous, non-painful rash on his RLQ. The rash consisted of 
erythematous plaques without clear borders. Over the following 
week, the rash spread across his entire trunk and back and down 
his legs. The skin over the rash began to desquamate. He 
believed it was poison ___ so he put on calamine lotion which 
relieved some of the itchiness. Over the next couple of weeks 
the rash improved but did not go away. 

One week ago, Mr. ___ noticed small skin bumps under both his 
armpits. The lesions were erythematous and burned. Over the next 
couple of days, the lesions grew, multiplied, and appeared on 
his nipple and groin area. He put on cortisone cream which 
provided transient symptomatic relief but did not decrease the 
size or number of his lesions. He has never had symptoms like 
this in the past. He works in ___ and thinks he may have 
had onset of his symptoms after exposure to plants while 
___, although he is unsure.

He denies any fevers, chills, difficulty breathing, change in 
abdominal habits, rashes elsewhere on his body or joint pain.

He went to an OSH where he was started on IV vancomycin. He was 
transferred to BI ED.

A bedside ultrasound was performed which showed a pocket of 
fluid within one of the lesions. An incision and drainage was 
performed on a large lesion in his right armpit and a fluid 
culture was sent. Both cultures are still pending. 

In the ED, initial VS were: 98, 77 BPM, 148/88, RR 18, 99% RA

Exam notable for:
Skin: Erythematous plaque with desquamation over trunk, back, 
groin and upper thighs. Multiple large erythematous, firm papule 
in both armpits and over lift nipple and right groin, which were 
tender to palpation.

Labs showed:
- Chem 7 ___
- CBC notable for 14.6 w/neutrophilia
- Lactate WNL

Imaging showed:
- None

Consults:
- None

Patient received:
- IV vancomycin at OSH

Transfer VS were: T 99.1 BP 156/88 HR 76 RR 18 O2 sat 98 Ra 

On arrival to the floor, patient endorses the above account. 
Currently, he is not in any pain and states that the rash does 
not itch. He is most uncomfortable around the axilla. He does 
not take any medications or OTC medications and has not had any 
change in detergents, soaps, or other emollients. He has not
traveled within the last year or had any sick contacts. Thinks 
oatmeal baths may have also helped his rash. Of note, he is 
unsure of his immunization status.
 
Past Medical History:
None, does not see any physicians

 
___:
___
Family History:
non-contributory
 
Physical Exam:
Admission Exam:
================
Vitals: 99.1, 156 / 88, 76, 18, 98 Ra on ___ @0004
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, no koplik spots
Neck: supple, JVP not elevated
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, NTND, bowel sounds present, no rebound tenderness
or guarding, no organomegaly  
Ext: WWP, 2+ pulses, no clubbing, cyanosis or edema, psoriatic
lesions over dorsal lower legs
Skin: extensive maculo-papular erythematous rash over trunk,
back, legs, dorsal feet. Firm, tender, erythematous nodules
expressing small amount of white pus under both armpits, 1
non-tender firm nodule on L nipple, 2 on groin. R arm pit
bandaged s/p I&D
Neuro: Alert, answers questions appropriately. 

Discharge exam:
=============
Vitals:  97.9, 122 / 79, 71, 16, 98 Ra on ___ @0702
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM
Neck: supple, JVP not elevated
Lungs: CTAB, no wheezes, rales, rhonchi  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, NTND, bowel sounds present, no rebound tenderness
or guarding, no organomegaly  
Ext: WWP, 2+ pulses, no clubbing, cyanosis or edema, psoriatic
lesions over dorsal lower legs
Skin: markedly improved, now faint, maculo-papular rash over
trunk, back, legs, dorsal feet. Firm, mildly tender nodules no
longer producing pus under both armpits, 1 non-tender firm 
nodule
on L nipple, 2 on groin. Site of I&D is mildly tender, c/d/i. 
RLQ
biopsy site c/d/I sutured, suprapubic biopsy site not examined.
Neuro: Alert, ambulatory, answers questions appropriately. 
 
Pertinent Results:
Hematology
___ 04:55AM BLOOD WBC-12.0* RBC-4.69 Hgb-13.5* Hct-41.5 
MCV-89 MCH-28.8 MCHC-32.5 RDW-13.2 RDWSD-42.7 Plt ___
___ 04:47AM BLOOD WBC-11.7* RBC-4.60 Hgb-13.4* Hct-40.5 
MCV-88 MCH-29.1 MCHC-33.1 RDW-13.2 RDWSD-42.6 Plt ___
___ 04:50AM BLOOD WBC-12.8* RBC-4.70 Hgb-13.8 Hct-41.4 
MCV-88 MCH-29.4 MCHC-33.3 RDW-13.2 RDWSD-43.1 Plt ___
___ 08:00PM BLOOD WBC-14.6* RBC-4.85 Hgb-14.2 Hct-41.9 
MCV-86 MCH-29.3 MCHC-33.9 RDW-13.2 RDWSD-41.4 Plt ___
___ 04:50AM BLOOD Neuts-73.5* Lymphs-17.3* Monos-7.7 
Eos-0.2* Baso-0.8 Im ___ AbsNeut-9.38* AbsLymp-2.21 
AbsMono-0.98* AbsEos-0.02* AbsBaso-0.10*
___ 08:00PM BLOOD Neuts-74.5* Lymphs-15.9* Monos-8.6 
Eos-0.1* Baso-0.6 Im ___ AbsNeut-10.87* AbsLymp-2.33 
AbsMono-1.26* AbsEos-0.02* AbsBaso-0.09*
___ 04:55AM BLOOD Plt ___
___ 04:47AM BLOOD Plt ___
___ 04:50AM BLOOD Plt ___
___ 04:50AM BLOOD ___ PTT-29.6 ___
___ 08:00PM BLOOD Plt ___

Chemistry

___ 04:55AM BLOOD Glucose-126* UreaN-12 Creat-0.9 Na-141 
K-5.5* Cl-102 HCO3-29 AnGap-10
___ 04:47AM BLOOD Glucose-122* UreaN-11 Creat-0.8 Na-139 
K-4.9 Cl-100 HCO3-26 AnGap-13
___ 04:50AM BLOOD Glucose-140* UreaN-8 Creat-0.8 Na-140 
K-4.7 Cl-100 HCO3-25 AnGap-15
___ 08:00PM BLOOD Glucose-87 UreaN-9 Creat-0.9 Na-140 K-4.6 
Cl-101 HCO3-26 AnGap-13
___ 04:55AM BLOOD Calcium-9.8 Phos-3.7 Mg-2.0
___ 04:47AM BLOOD Calcium-9.4 Phos-3.7 Mg-1.9
___ 04:50AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.0

LFTs
___ 04:50AM BLOOD ALT-14 AST-17 AlkPhos-76

Viral
___ 04:47AM BLOOD HIV Ab-NEG

Lactate
___ 08:12PM BLOOD Lactate-1.___ with minimal prior medical care who presented with diffuse 
rash and multiple erythematous, firm skin lesions in his 
armpits, left nipple and groin, s/p incision and drainage of 
abscesses, biopsy of right lower quadrant rash and suprapubic 
nodule, treated with IV vancomycin, then switched to Keflex at 
discharge. 

ACUTE ISSUES:
===============
# Morbiliform rash
Etiology of diffuse morbilliform rash is unclear. Currently 
ruling out broad spectrum of infectious causes, mono negative, 
RPR with prozone nonreactive, HIV Ab negative, HIV PCR, TB Quant 
Gold, mycoplasma pending. No history of travel abroad or 
exposure risk factors to TB. Unlikely measles/rubella given no 
cough, no koplik spots, no coryza. Dermatology was consulted, 
and biopsied two regions. Culture grew GPCs in pairs and 
clusters. Patient was treated during admission with IV 
vancomycin but transitioned to oral Keflex upon discharge for an 
additional ___xillary nodules, Abscess s/p incision and drainage # 
Leukocytosis: 
Patient presented with firm erythematous nodules and multiple 
abscesses in axilla, L nipple, suprapubic region. WBC initially 
elevated at 14.6, downtrending since admission, likely iso 
infection. Appearance consistent with hidradenitis suppurativa 
(no known DM diagnosis, not obese but has been a smoker for ___ 
years), with potential overlying cellulitis in axilla. Received 
1 dose of Vancomycin at OSH, treated with IV vanc at ___. 
Antibiotic plan for discharge as above.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 10 Days 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 6 hours Disp 
#*40 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Soft tissue abscess
Rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for rash and firm painful nodules under your 
armpits.

What was done for me while I was in the hospital?  
- You were given IV antibiotics.
- We drained the fluid pockets in some of nodules on your right 
armpit.
- Some biopsies of your skin were taken.
- We sent a lot of labs to test for infections.

What should I do when I leave the hospital?  
- Please finish your course of antibiotics, last day is ___.
- Please follow instructions (included) to set up an appointment 
with a primary care physician. Our dermatologists will also set 
up an outpatient follow-up appointment for you.
- Please use sarna lotion and benzyl peroxide as instructed by 
our dermatologists.

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___